US04473508
A reaction tube, having a 1 m length and a hydraulic-inside diameter of 2 mm, was mounted horizontally. While the tube was cooled from the outside with brine of -20° C., the two reactants (in solution form) were fed to the reaction tube in a continuous cocurrent manner. The requisite turbulent flow was achieved and maintained in the reaction tube. The diketene solution consisted of 8.4 kg of diketene (100 moles) and 150 liters of methylene chloride; and the chlorine solution consisted of 7.6 kg of chlorine (107 moles) and 150 liters of methylene chloride. The two solutions were dosed into the tube such that a flow velocity of 1 m/s developed in the tube. The throughput was 162 1 of solution/hr. (Throughput resp. reaction volume: 3,600 1 of solution/1·hr.) The highest temperature measured in the reaction medium was 21° C. Upon emergence from the reactor, the reaction solution had a temperature of 2° C. The solution emerging to the reactor was taken and cooled to -15° C. The γ-chloroacetoacetic acid chloride product was reacted with an equimolar quantity of ethyl alcohol to form γ-chloroacetoacetic acid ethyl ester. Following such, the excess chlorine, as well as the methylene chloride, was removed by distilling it off. Gas chromatographic analysis of the crude γ-chloroacetoacetic acid ethyl ester showed a content of 98.1 percent thereof (plus 0.4 percent of acetoacetic acid ester, zero percent of α-chloroacetoacetic acid ester and 0.3 percent of α, γ-dichloroacetoacetic acid ester).

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | diketene | 100 moles, 8.4 kg | C=C1CC(=O)O1 | C4H4O2
reactant | methylene chloride | 150 liters | C(Cl)Cl | CH2Cl2
reactant | chlorine | ClCl | Cl2
reactant | chlorine | 107 moles, 7.6 kg | ClCl | Cl2
reactant | methylene chloride | 150 liters | C(Cl)Cl | CH2Cl2
reactant | γ-chloroacetoacetic acid chloride | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
solvent | brine | [Cl-].[Na+].O
solvent | ethyl alcohol | C(C)O | C2H6O
product | γ-chloroacetoacetic acid ethyl ester | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
